US09126931B2
3-Bromo-9-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one
Under nitrogen atmosphere, 3-bromo-9-hydroxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one (Compound JJ2, 356 mg, 1.00 mmol) and triphenylphosphine (317 mg, 1.2 eq.) were added with THF (3 ml), followed by dropwise addition of ((S)-2,2-dimethyl-[1,3]dioxolan-4-yl)-methanol (148 μl, 1.2 eq.) and diisopropyl azodicarboxylic acid (252 μl, 1.3 eq.). The mixture was then stirred at 50° C. for 2 hr. After cooling, the reaction solution was added with ethyl acetate, washed with brine and dried over magnesium sulfate. After filtration and the concentration under reduced pressure, the resulting residues were purified by silica gel column chromatography (ethyl acetate/dichloromethane) to yield the solid, which was then washed with dichloromethane to obtain the title compound (white powder, 241.6 mg, 51%).

reactant | 3-bromo-9-hydroxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 1.00 mmol, 356 mg | BrC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=CC(=C4)O)=O | C18H14BrNO2
reactant | triphenylphosphine | 317 mg, 1.2 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ((S)-2,2-dimethyl-[1,3]dioxolan-4-yl)-methanol | 148 μl, 1.2 eq. | CC1(OC[C@@H](O1)CO)C | C6H12O3
reactant | diisopropyl azodicarboxylic acid | 252 μl, 1.3 eq. | C(C)(C)OC(=O)N=NC(=O)OC(C)C | C8H14N2O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 3-Bromo-9-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 241.6 mg, 51% | BrC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=CC(=C4)OC[C@@H]4OC(OC4)(C)C)=O | C24H24BrNO4
